US04845118
3-Chloro-2-chloromethyl-4-methoxypyridine hydrochloride
To a mixture of 2.6 g of 3-chloro-2-hydroxymethyl-4-methoxypyridine and 30 ml of dichloromethane at -10 to -15° C. was added dropwise a solution of 3.5 ml of thionyl chloride in 25 ml of dichloromethane, and then the mixture was stirred at room temperature for 2 hours. The solvent was evaporated off, and the residue was induced to crystallized with diethyl ether. Colorless crystals, melting point 145°-146° C.

reactant | 3-chloro-2-hydroxymethyl-4-methoxypyridine | 2.6 g | ClC=1C(=NC=CC1OC)CO | C7H8ClNO2
reactant | thionyl chloride | 3.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-Chloro-2-chloromethyl-4-methoxypyridine hydrochloride | Cl.ClC=1C(=NC=CC1OC)CCl | InChI=1S/C7H7Cl2NO.ClH/c1-11-6-2-3-10-5(4-8)7(6)9;/h2-3H,4H2,1H3;1H
